US07662771B2
Heat a mixture of thioacetimidic acid 2-(4-methoxyphenyl)-2-oxoethyl ester hydrobromide (10.0 g, 32.9 mmol) and zinc (II) chloride (4.50 g, 33.0 mmol) in methanol (80 mL) at reflux under nitrogen protection for 6.5 hours. Cool the mixture, slowly dilute with saturated NaHCO3 (300 mL), and extract with methylene chloride (400 mL×2). Dry the combined organic extracts over sodium sulfate and remove the solvent under reduced pressure. Purify the crude product by flash column chromatography on silica gel, eluting with hexanes/ethyl acetate (9:1), to provide 4-(4-methoxyphenyl)-2-methylthiazole (6.24 g, 92%): APCI mass spectrum m/z 206 [C11H11NOS+H]+.

reactant | thioacetimidic acid 2-(4-methoxyphenyl)-2-oxoethyl ester hydrobromide | 32.9 mmol, 10.0 g | Br.COC1=CC=C(C=C1)C(CSC(C)=N)=O
solvent | methanol | 80 mL | CO | CH4O
solvent | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
catalyst | zinc (II) chloride | 33.0 mmol, 4.50 g | [Cl-].[Zn+2].[Cl-]
product | 4-(4-methoxyphenyl)-2-methylthiazole | 6.24 g, 92% | COC1=CC=C(C=C1)C=1N=C(SC1)C | C11H11NOS
